US06555556B1
4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3-carbamoyl-5-methylaniline
To a solution of 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-3-carbamoyl-5-methylnitrobenzene (3.9 g) in methanol (100 ml) was added palladium on carbon (0.5 g) and the mixture was stirred under a hydrogen atmosphere at room temperature for 1.5 hours. The reaction mixture was filtered and the filtrate concentrated in vacuo to give the desired compound (3.5 g, yield 97%) as a dark green amorphous solid.

reactant | 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-3-carbamoyl-5-methylnitrobenzene | 3.9 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1C)[N+](=O)[O-])C(N)=O | C18H25N3O6
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | 4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3-carbamoyl-5-methylaniline | 3.5 g, yield 97% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(N)C=C1C)C(N)=O | C18H27N3O4
